Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([NH:7][c:8]2[n:9][c:10]([NH:11][CH2:12][C:13]([F:14])([F:15])[F:16])[c:17]3[cH:18][cH:19][n:20][c:21]-3[nH:22]2)[cH:23][cH:24]1.[O:25]=[S:26]1(=[O:27])[CH2:28][CH2:29][NH:30][CH2:31][CH2:32]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([NH:7][c:8]2[n:9][c:10]([NH:11][CH2:12][C:13]([F:14])([F:15])[F:16])[c:17]3[cH:18][cH:19][n:20][c:21]-3[nH:22]2)[cH:23][cH:24]1)[N:30]1[CH2:29][CH2:28][S:26](=[O:25])(=[O:27])[CH2:32][CH2:31]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([NH:7][c:8]2[n:9][c:10]([NH:11][CH2:12][C:13]([F:14])([F:15])[F:16])[c:17]3[cH:18][cH:19][n:20][c:21]-3[nH:22]2)[cH:23][cH:24]1.[O:25]=[S:26]1(=[O:27])[CH2:28][CH2:29][NH:30][CH2:31][CH2:32]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([NH:7][c:8]2[n:9][c:10]([NH:11][CH2:12][C:13]([F:14])([F:15])[F:16])[c:17]3[cH:18][cH:19][n:20][c:21]-3[nH:22]2)[cH:23][cH:24]1)[N:30]1[CH2:29][CH2:28][S:26](=[O:25])(=[O:27])[CH2:32][CH2:31]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (30, 1), ([1, 2], 2), (303, 30.1), ([30.1, 30], 30), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[O:9][CH2:10][c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18]1.[CH3:19][O:20][c:21]1[cH:22][c:23]([CH:24]([CH3:25])[CH3:26])[c:27]2[c:28]([cH:29]1)[S:30](=[O:31])(=[O:32])[N:33]([CH2:34][O:35][C:36](=[O:37])[c:38]1[c:39]([Cl:40])[cH:41][cH:42][c:43]([OH:44])[c:45]1[Cl:46])[C:47]2=[O:48]>>[CH2:1]([CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[O:9][CH2:10][c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18]1)[O:44][c:43]1[cH:42][cH:41][c:39]([Cl:40])[c:38]([C:36]([O:35][CH2:34][N:33]2[S:30](=[O:31])(=[O:32])[c:28]3[c:27]([c:23]([CH:24]([CH3:25])[CH3:26])[cH:22][c:21]([O:20][CH3:19])[cH:29]3)[C:47]2=[O:48])=[O:37])[c:45]1[Cl:46],[CH3:19][O:20][c:21]1[cH:22][c:23]([CH:24]([CH3:25])[CH3:26])[c:27]2[c:28]([cH:29]1)[S:30](=[O:31])(=[O:32])[N:33]([CH2:34][O:35][C:36](=[O:37])[c:38]1[c:39]([Cl:40])[cH:41][cH:42][c:43]([OH:44])[c:45]1[Cl:46])[C:47]2=[O:48].[OH:101][CH2:1][CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[O:9][CH2:10][c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([CH2:2][CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[O:9][CH2:10][c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18]1)[O:44][c:43]1[cH:42][cH:41][c:39]([Cl:40])[c:38]([C:36]([O:35][CH2:34][N:33]2[S:30](=[O:31])(=[O:32])[c:28]3[c:27]([c:23]([CH:24]([CH3:25])[CH3:26])[cH:22][c:21]([O:20][CH3:19])[cH:29]3)[C:47]2=[O:48])=[O:37])[c:45]1[Cl:46],Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 44.1), ([44.1, 44], 44), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (44, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][C:9](=[O:10])[N:11]1[c:12]2[cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][c:19]([CH2:20][N:21]4[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]4)[cH:27][cH:28]3)[cH:29][c:30]2[C@H:31]([NH2:32])[CH2:33][C@@H:34]1[CH3:35]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:32][C@H:31]1[c:30]2[c:12]([cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][c:19]([CH2:20][N:21]4[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]4)[cH:27][cH:28]3)[cH:29]2)[N:11]([C:9]([CH3:8])=[O:10])[C@@H:34]([CH3:35])[CH2:33]1,[CH3:8][C:9](=[O:10])[N:11]1[c:12]2[cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][c:19]([CH2:20][N:21]4[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]4)[cH:27][cH:28]3)[cH:29][c:30]2[C@H:31]([NH2:32])[CH2:33][C@@H:34]1[CH3:35].CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:32][C@H:31]1[c:30]2[c:12]([cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][c:19]([CH2:20][N:21]4[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]4)[cH:27][cH:28]3)[cH:29]2)[N:11]([C:9]([CH3:8])=[O:10])[C@@H:34]([CH3:35])[CH2:33]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(32, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
